US05399578
1.07 g of (S)-N-(1-benzyloxycarbonyl-5-benzyloxycarbonylamino-pent-1-yl)-N-pentanoyl-N-[2'-(1-triphenylmethyl-1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amine are dissolved in 15 ml of dioxane. This solution is treated with 1.5 ml of a solution of hydrogen chloride in dioxane (7 N), the mixture is stirred for 4.5 hours at 40° and then evaporated, and the residue is purified by means of flash-chromatography (200 g of silica gel; system N6). The (S)-N-(1-benzyloxycarbonyl-5-benzyloxycarbonylamino-pent-1-yl)-N-pentanoyl-N-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amine [Rf : 0.42 (system N7)] is thus obtained.

reactant | (S)-N-(1-benzyloxycarbonyl-5-benzyloxycarbonylamino-pent-1-yl)-N-pentanoyl-N-[2'-(1-triphenylmethyl-1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amine | 1.07 g | C(C1=CC=CC=C1)OC(=O)[C@H](CCCCNC(=O)OCC1=CC=CC=C1)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(CCCC)=O | C59H58N6O5
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 7 N | O1CCOCC1 | C4H8O2
product | (S)-N-(1-benzyloxycarbonyl-5-benzyloxycarbonylamino-pent-1-yl)-N-pentanoyl-N-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-amine | C(C1=CC=CC=C1)OC(=O)[C@H](CCCCNC(=O)OCC1=CC=CC=C1)N(CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(CCCC)=O | C40H44N6O5
